US04005217
1-Ethoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea (5.0 g) was dissolved in the minimum quantity of ethanol and the solution treated with diethyl ether (500 ml), followed by a saturated solution of hydrogen chloride in diethyl ether. The resultant solid was filtered off and recrystallised from ethanol/diethyl ether to give 1-ethoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea hydrochloride (4.3 g), m.p. 178°-180° C. (with decomposition).

reactant | 1-Ethoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea | 5.0 g | C(C)OC(=O)NC(=S)NC1=C(C=CC=C1)NC(CN(C)C)=O | C14H20N4O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-ethoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea hydrochloride | 4.3 g | Cl.C(C)OC(=O)NC(=S)NC1=C(C=CC=C1)NC(CN(C)C)=O | InChI=1S/C14H20N4O3S.ClH/c1-4-21-14(20)17-13(22)16-11-8-6-5-7-10(11)15-12(19)9-18(2)3;/h5-8H,4,9H2,1-3H3,(H,15,19)(H2,16,17,20,22);1H
